US07125987B2
A 2-L, three-necked flask equipped with a mechanical stirrer, thermometer and nitrogen inlet was charged with 10-methoxyiminostilbene I (110.0 g, 0.49 mol) and 330 mL acetone. A 10% solution of hydrochloric acid (28.6 g, 0.08 mol) was then added. The reaction mixture was stirred at ambient temperature for 1–1.5 hours until reaction completion. The product was precipitated by the addition of 660 mL of deionized water, and the resulting suspension was stirred for 3–4 hours. The suspension was filtered and washed with water. After drying, oximinostilbene (99.92 g, 97%) was obtained as a bright yellow solid having a purity of 99% by HPLC.

reactant | 10-methoxyiminostilbene | COC1=CC2=CC=CC=C2NC3=CC=CC=C31 | C15H13NO
reactant | hydrochloric acid | 0.08 mol, 28.6 g | Cl | ClH
reactant | acetone | 330 mL | CC(=O)C | C3H6O
product | oximinostilbene | 99.92 g, 97% | N(O)=C1C(C=CC=C1)C=CC1=CC=CC=C1 | C14H13NO
